US05128481
To a suspension of methoxymethyltriphenylphosphonium chloride (2 g, 5.84 mmol) in anhyrous THF was added 3.5 ml solution of lithium n-butylate (1.6 mol) in hexane. After stirring at room temperature for 30 minutes, methyl {1,3-dimethyl-4-[1-(2-methylthiazol-4-yl)methyloxy]pyrazol-5-yl}glyoxalate (0.6 g, 1.95 mmol) in anhydrous THF (6 ml) was added thereto and the mixture was allowed to stand for two hours. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed over silica gel to obtain (E)-methyl 2-{1,3-dimethyl-4-[1-(2-methylthiazol-4-yl)methyloxy]pyrazol-5-yl}-3-methoxyacrylate (compound No. 9 in Table 1) as an oil (0.25 g, 38.1%).

reactant | methoxymethyltriphenylphosphonium chloride | 5.84 mmol, 2 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methyl {1,3-dimethyl-4-[1-(2-methylthiazol-4-yl)methyloxy]pyrazol-5-yl}glyoxalate | 1.95 mmol, 0.6 g | CN1N=C(C(=C1C(C(=O)OC)=O)OCC=1N=C(SC1)C)C | C13H15N3O4S
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | (E)-methyl 2-{1,3-dimethyl-4-[1-(2-methylthiazol-4-yl)methyloxy]pyrazol-5-yl}-3-methoxyacrylate | 0.25 g, 38.1% | CN1N=C(C(=C1/C(/C(=O)OC)=C\OC)OCC=1N=C(SC1)C)C | C15H19N3O4S
